US09340538B2
Step B: Ethyl 6-(bromomethyl)-4-(2-chlorophenyl)-2-(thiazol-2-yl)-1,4-dihydropyrimidine-5-carboxylate
Ethyl 4-(2-chlorophenyl)-6-methyl-2-(thiazol-2-yl)-1,4-dihydropyrimidine-5-carboxylate (10 g, 27.6 mmol) was reacted with NBS (5.41 g, 30.4 mmol) according to the procedure as described in Example 1, Step B to give the title compound as a yellow solid (7.3 g, 60%). The compound was characterized by the following spectroscopic data:

reactant | Ethyl 4-(2-chlorophenyl)-6-methyl-2-(thiazol-2-yl)-1,4-dihydropyrimidine-5-carboxylate | 27.6 mmol, 10 g | ClC1=C(C=CC=C1)C1N=C(NC(=C1C(=O)OCC)C)C=1SC=CN1 | C17H16ClN3O2S
reactant | NBS | 30.4 mmol, 5.41 g | C1CC(=O)N(C1=O)Br | C4H4BrNO2
product | Ethyl 6-(bromomethyl)-4-(2-chlorophenyl)-2-(thiazol-2-yl)-1,4-dihydropyrimidine-5-carboxylate | 7.3 g, 60% | BrCC1=C(C(N=C(N1)C=1SC=CN1)C1=C(C=CC=C1)Cl)C(=O)OCC | C17H15BrClN3O2S
